US04645765
To a solution of 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4-6-triene-4-carboxylic acid (12 mg) in methanol (2 ml) was added a solution of diazomethane (excess) in diethyl ether at room temperature. The mixture was allowed to stand at room temperature for 20 minutes and then evaporated to dryness in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (15:1 v/v) to afford methyl 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate (5 mg).

reactant | 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4-6-triene-4-carboxylic acid | 12 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(=O)O | C18H19N3O9
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate | 5 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(=O)OC | C19H21N3O9
